US05942520
A mixture of 2-iodobenzoic acid (28 g, 0.113 mol), 5-amino-1-cyclopentylpyrazole (17 g, 0.113 mol), DME (100 ml), potassium carbonate (16 g, 0.113 mol) and Cu(OAc)2 (0.5 g) is refluxed overnight. The reaction mixture is poured into ice water, and acidified with acetic acid to a pH of 5. The gum which forms is extracted with CH2Cl2 and the CH2Cl2 layer is washed with water, dried over MgSO4, and evaporated to afford 21 g of N-(1-cyclopentyl pyrazol-5-yl) anthranilic acid.

reactant | 2-iodobenzoic acid | 0.113 mol, 28 g | IC1=C(C(=O)O)C=CC=C1 | C7H5IO2
reactant | 5-amino-1-cyclopentylpyrazole | 0.113 mol, 17 g | NC1=CC=NN1C1CCCC1 | C8H13N3
reactant | DME | 100 ml | COCCOC | C4H10O2
reactant | potassium carbonate | 0.113 mol, 16 g | C([O-])([O-])=O.[K+].[K+]
catalyst | Cu(OAc)2 | 0.5 g | CC(=O)[O-].CC(=O)[O-].[Cu+2]
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | N-(1-cyclopentyl pyrazol-5-yl) anthranilic acid | 21 g | C1(CCCC1)N1N=CC=C1NC=1C(C(=O)O)=CC=CC1 | C15H17N3O2
